US08232289B2
Preparation 4: 2′-Chloro-4′,5′-dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran]hydrochloride
A solution of 4′,5′-dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran] (50 g, 238.88 mmol) in a mixture of acetic acid (400 mL) and methyl t-butyl ether (40 mL) is cooled to 15° C. Then, a solution of sulfuryl chloride (21.20 mL, 262.77 mmol) in acetic acid (100 mL) is added dropwise in 40 min at that temperature (internal temperature=15° C.-22° C.) and the mixture is stirred at room temperature for 20 hr. Then, a solution of sulfuryl chloride (11.56 mL, 143.33 mmol) in acetic acid (50 mL) is added dropwise at room temperature. The reaction mixture is stirred at room temperature for 30 min. and then it is added dropwise (30 min) over methyl t-butyl ether (1 L) cooling with ice/water bath with stirring. A white suspension is formed and the solid is filtered. To obtain a second crop of material, the filtrate is concentrated (refilling with methyl t-butyl ether via rotavap). Resulting solid is suspended in methyl t-butyl ether (300 mL), suspension is stirred at reflux (bath: 100° C.) and methanol (30 mL) is added till a cloudy suspension is formed. Then, the suspension is cooled to room temperature overnight. The suspension is further cooled in a ice/water bath and filtered. Solid is washed with methyl t-butyl ether (50 mL) and combined with first crop to give the title compound in a 60% yield. MS (m/z): 244 (M+1).

reactant | 4′,5′-dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran] | 238.88 mmol, 50 g | S1C=CC2=C1C1(OCC2)CCNCC1 | C11H15NOS
reactant | sulfuryl chloride | 262.77 mmol, 21.20 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sulfuryl chloride | 143.33 mmol, 11.56 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | methanol | 30 mL | CO | CH4O
solvent | acetic acid | 400 mL | C(C)(=O)O | C2H4O2
solvent | methyl t-butyl ether | 40 mL | C(C)(C)(C)OC | C5H12O
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | methyl t-butyl ether | 300 mL | C(C)(C)(C)OC | C5H12O
solvent | methyl t-butyl ether | 1 L | C(C)(C)(C)OC | C5H12O
product | 2′-Chloro-4′,5′-dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran]hydrochloride | 60% yield | Cl.ClC1=CC2=C(C3(OCC2)CCNCC3)S1 | InChI=1S/C11H14ClNOS.ClH/c12-9-7-8-1-6-14-11(10(8)15-9)2-4-13-5-3-11;/h7,13H,1-6H2;1H
